US08748429B2
(4R,7S,8S)-8-amino-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
A mixture of trifluoroacetic acid (0.986 mL, 12.80 mmol) and (4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (16.4 mg, 0.026 mmol) in methylene chloride (10 mL) was stirred at rt from for 2.5 h. The solvent was removed under vacuum and the crude product was taken up in ethyl acetate and washed with saturated sodium bicarbonate. The ethyl acetate layer was separated, dried (sodium sulfate), filtered and concentrated. Flash chromatography, eluting with methanol in methylene chloride from 0 to 10% gave the desired product (13 mg, 89%) as a white solid: LCMS (M+H=541.40); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.98 (1H, br. s), 8.64 (1H, s), 8.08 (1H, d, J=4.8 Hz), 7.31-7.64 (1H, m), 6.94-7.19 (4H, m), 6.11-6.21 (1H, m), 4.42 (4H, m), 3.23-3.43 (1H, m), 2.85-3.16 (2H, m), 2.24 (6H, m), 1.83-1.98 (2H, m), 1.56 (2H, br.

reactant | trifluoroacetic acid | 12.80 mmol, 0.986 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.026 mmol, 16.4 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=C1N=CS2)NC(=O)OC(C)(C)C)C2=C(C(=CC=C2)F)F | C31H34F2N6O5S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (4R,7S,8S)-8-amino-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 13 mg, 89% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=C1N=CS2)N)C2=C(C(=CC=C2)F)F | C26H26F2N6O3S
